US07718676B2
To a solution of (2-methyl-5-nitro-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine (600 mg, 2.02 mmol) in ethanol (20 mL) was added tin(II) chloride dihydrate (2.50 g, 10 mmol). The reaction mixture was heated under reflux for 6 h. The mixture was then concentrated, saturated aqueous NaHCO3 was added and the resultant suspension was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous MgSO4 and concentrated. The residue was silica gel column chromatographed (dichloromethane/ethanol:97/3). 350 mg (65%) of (2-methyl-5-amino-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine was obtained as pale yellow powder.

reactant | (2-methyl-5-nitro-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine | 2.02 mmol, 600 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])NC=1OC(=CN1)C=1C=NC=CC1 | C15H12N4O3
reactant | tin(II) chloride dihydrate | 10 mmol, 2.50 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2-methyl-5-amino-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine | 350 mg, 65% | CC1=C(C=C(C=C1)N)NC=1OC(=CN1)C=1C=NC=CC1 | C15H14N4O
